Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Evaluation for possible seizures 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
The pt is a ___ year-old R-handed M w/ PMH of anxiety and 
depression who presents from OSH for second opinion regarding 
recent seizure-like events. Hx obtained from pt and family at 
bedside.

Pt initially started having seizure-like events on ___ 
___. While at work, he developed R arm twitching followed by 
knees buckling before turning to his colleague and asking "Did 
you feel that?". He subsequently lost consciousness and was 
reported to have tonic-clonic movements per EMS for ___ minutes. 
Upon their arrival, he was brought to OSH ___) 
where in their ED he had a subsequent event. Family was not 
present during these particular events but were told pt's eyes 
rolled into back of his head. Pt denies any tongue biting during 
these events but endorses urinary incontinence and post-ictal 
lethargy. Upon arrival to OSH he was also noted to have new L 
sided hemiparesis. 

He was admitted for neurologic evaluation which included CT/CTA, 
MRI/MRA, and Echo all of which were unremarkable. He was started 
on Keppra 500mg BID and underwent routine EEG with no abnormal 
electroencephalographic findings (of note, pt had no recurrent 
events while in hospital). He was evaluated by Neurology at ___ 
who diagnosed pt with conversion d/o and stopped Keppra 
yesterday. Today, pt was planned for transfer to rehab for 
management of his L sided deficits but there were reportedly 
transport issues and pt was kept in ___ ED. In 
frustration, pt's family wished for him to be transferred to ___ 
for ___ opinion regarding his seizures. Upon arrival to ___ ED, 
pt had recurrent seizure-like event which family reports 
involved tonic activity in his UEs and subsequent shaking. As 
soon as this started, pt was given 2mg Ativan IV by ED staff. 

At time of interview, pt states he feels tired and sore in his 
muscles, although unwilling to elaborate. He says the last thing 
he remembers is being in OSH ED. He is distressed by L arm/leg, 
which he cannot move. However, when team woke him up to get 
signature, he had full strength and he noted that "my strength 
returns when I am not paying attention."

Denies any recent change in his medication or medical history. 
Endorses recent work and family stressors (per siblings, pt's 
niece had been given up for adoption when he was young but has 
now returned producing turmoil in family) and states he is sleep 
deprived chronically. No recent infectious sx or drug use. No 
family hx of epilepsy or childhood hx of febrile sz or CNS 
infection. Pt reportedly had "stitches in his head" at age ___ due 
to head trauma. 

Neurologic and General ROS negative except as noted above

 
Past Medical History:
Anxiety/Depression
GERD
HLD
 
Social History:
___
Family History:
None reported. 
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Physical Exam:
Vitals: P: 79 BP: 166/102 RR: 18 O2sat: 100% RA
General: Awake, cooperative, in mild distress.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normative bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
Mental Status: 
Awake, alert, oriented to person, hospital, not to city or date 
(says ___, ___. Vague historian with occasionally 
inappropriate and inconsistent answers to questions. Mildly 
inattentive with erratic latency to consider and respond to 
questions (e.g. initial difficulty in naming DOWF, then 
immediately able to do so briskly) Language appears fluent with 
intact repetition and comprehension. Normal prosody. There were 
no paraphasic errors. Naming intact to high frequency objects. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in SCM, intact shoulder shrug on R. Unwilling 
to raise L shoulder due to pain.
XII: Tongue initially protruded on R, with additional 
evaluations was seen to be midline.

Motor: 
Normal bulk, tone throughout. 
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  2    4-  4-  ___  ___-   4- 5-    5     5-  5-
R  5    ___   ___  5   5    5  5     5     5   5
*significant giveaway throughout confrontational exam, appeared 
to have improved strength at other times of interview

Sensory: No deficits to light touch or pinprick throughout. When 
checking for cold sensation with tuning fork, stated it felt 
like "a fire burning in LLE over anterior shin. Inconsistent 
responses to proprioception over L great toe, intact over R 
great toe. No extinction to DSS.

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor noted. No dysmetria on FNF on R. On L, pt 
placed finger an inch away from interviewer's finger and asked 
to have it brought closer. When denied, slowly moved his finger 
forward.

Gait: 
Deferred

==============================
DISCHARGE PHYSICAL EXAMINATION
==============================
Vitals
Temperature: 97.4
Blood pressure:  113/71
Pulse: 65
Respiratory rate: 18 
Oxygen saturation: 95%

General physical examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status: 
Patient this morning when seen initially knew his name, 
location,
and month and year and was able to do days of the week forward
and backward with no difficulty.  However, when he was later 
seen
by the team he stated that while he was at ___ he felt that he
was in the city of ___.  Patient also then stated that the
year was ___.  

Neurologic examination:

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: Shrugs shoulders with no difficulty. 
XII: Tongue protrudes in midline.

Motor: 
Patient with full strength in muscles of the upper and lower
extremity bilaterally.  However, on the left side in both the
upper and lower extremities bilaterally while he initially gives
full power he then has gives way weakness (loss of effort).    

Sensory: 
No deficits to light touch, proprioception throughout upper and
lower extremities bilaterally. 

Reflexes:
Deferred.

Coordination: 
Deferred.

Gait: 
Deferred.

 
Pertinent Results:
___ 09:00AM BLOOD WBC-9.7 RBC-4.60 Hgb-14.1 Hct-42.1 MCV-92 
MCH-30.7 MCHC-33.5 RDW-13.3 RDWSD-44.5 Plt ___
___ 09:00AM BLOOD Glucose-104* UreaN-13 Creat-1.1 Na-142 
K-4.0 Cl-104 HCO3-25 AnGap-13
___ 09:00AM BLOOD ALT-80* AST-67* LD(LDH)-188 AlkPhos-91 
TotBili-0.6
___ 11:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Patient was admitted from outside hospital for second opinion on 
possible seizure disorder.  Patient at outside hospital had 
negative thirty minute electroencephalogram and here he was 
monitored on continuous electroencephalogram which was also 
negative for epileptiform activity.  This included a spell.  
Patient has some insight and has no difficulty with accepting 
that his condition has a functional component.  Patient has 
pseudo seizures and was not started on anti epileptic 
medications.  Patient reported, likely functional, left sided 
weakness as a result of his spells and was discharged to an 
acute rehabilitation for assistance in regaining function.  
Patient was given information to schedule an appointment with 
our cognitive neurology clinic. 

Transitional issues: 
Discharged to acute rehabilitation 
Patient plans to be seen in cognitive neurology clinic    
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO BID 
2. FLUoxetine 60 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. ClonazePAM 0.5 mg PO QAM 
5. ClonazePAM 1 mg PO QHS 

 
Discharge Medications:
1.  ClonazePAM 0.5 mg PO QAM  
2.  ClonazePAM 1 mg PO QHS  
3.  FLUoxetine 60 mg PO DAILY  
4.  Gabapentin 600 mg PO BID  
5.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Psychogenic nonepileptic seizures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted for evaluation of possible seizures, but 
continuous electroencephalogram monitoring did not reveal 
seizure activity, including during the event that you 
experienced the morning of ___.  Based on the data we have 
collected, we do not recommend anti-seizures medications at this 
time.  However, while we believe that your episodes are not 
epileptic, we do believe that you have a condition that would be 
best managed by our cognitive neurology team. Therefore, we have 
discussed your case with them and they would be happy to see you 
in clinic.  Please call ___ to schedule this 
appointment with Dr. ___. You have been discharged to an 
acute care rehabilitation to help with recovery of your left 
sided weakness. 

Thank you for allowing us to care for you, 
___ Neurology Team    

 
Followup Instructions:
___